US05166198
b) 6-Chloro-9-[3-(diethoxyphosphoryl)propoxy]purine
A solution of 4-chloro-6-[[3-(diethoxyphosphoryl)-propoxy]amino]-5-formamidopyrimidine (0.86 g, 2.3 mmol) in diethoxymethyl acetate (5 ml) was heated at 120° C. for 2 hours. After cooling to ambient temperature, excess solvent was removed under reduced pressure to leave an oil. The oil was dissolved in methanol (20 ml) and 880 ammonia (0.5 ml) was added. After 20 minutes at ambient temperature, the solvent was evaporated to leave an oil. Purification by column chromatography on silica gel (dichloromethane:methanol, 96:4 as eluant) gave the title compound as a yellow oil (0.7 g, 85%). IR: υmax 3065, 3000, 1595, 1560, 1330, 1240, 1215, 1160, 1050, 1025, 960 and 930 cm-1. 1H NMR: δH [(CD3)2SO] 1.22 (6H, t, J=7Hz, (OCH2CH3)2), 1.6-2.1 (4H, m, OCH2CH2CH2P), 4.00 (4H, m, (OCH2CH3)2), 4.50 (2H, t, J=6Hz, OCH2), 8.8 (1H, s), 9.05 (1H, s).

reactant | 4-chloro-6-[[3-(diethoxyphosphoryl)-propoxy]amino]-5-formamidopyrimidine | 2.3 mmol, 0.86 g | ClC1=NC=NC(=C1NC=O)NOCCCP(=O)(OCC)OCC | C12H20ClN4O5P
reactant | ammonia | 0.5 ml | N | H3N
solvent | diethoxymethyl acetate | 5 ml | C(C)(=O)OC(OCC)OCC | C7H14O4
solvent | methanol | 20 ml | CO | CH4O
product | 6-Chloro-9-[3-(diethoxyphosphoryl)propoxy]purine | 0.7 g, 85% | ClC1=C2N=CN(C2=NC=N1)OCCCP(=O)(OCC)OCC | C12H18ClN4O4P
